US09359375B2
Commercial 4-bromo-2-(1H-pyrazol-1-yl)pyridine (500 mg, 2.23 mmol) was dissolved in 30 mL dioxane. To it were added t-butyl carbamate (392 g, 3.35 mmol), cesium carbonate (1.46 g, 4.46 mmol), Pd2(dba)3 (101 mg, 0.11 mmol) and XantPhos (192 mg, 0.33 mmol). The mixture was degassed with Ar stream and stirred under Ar in 85° C. bath for overnight. The mixture was concentrated, taken into 200 mL EtOAc and 100 mL water. The organic phase was separated, dried, concentrated and subjected to flash column (0-20% EtOAc in DCM) to obtain tert-butyl 2-(1H-pyrazol-1-yl)pyridin-4-ylcarbamate. This compound was treated with 2:1 DCM/TFA mixture at RT for 2 h. The mixture was pumped to dryness to afford 2-(1H-pyrazol-1-yl)pyridin-4-amine di-TFA salt.

reactant | 4-bromo-2-(1H-pyrazol-1-yl)pyridine | 2.23 mmol, 500 mg | BrC1=CC(=NC=C1)N1N=CC=C1 | C8H6BrN3
reactant | t-butyl carbamate | 3.35 mmol, 392 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 4.46 mmol, 1.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | XantPhos | 0.33 mmol, 192 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.11 mmol, 101 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 2-(1H-pyrazol-1-yl)pyridin-4-ylcarbamate | N1(N=CC=C1)C1=NC=CC(=C1)NC(OC(C)(C)C)=O | C13H16N4O2
